US08114894B2
2-(4-(2-Hydroxyethyl)piperidin-1-yl)acetonitrile
The title compound was prepared according to general procedure G described in Scheme 3. 2-(Piperidin-4-yl)ethanol (1.2 g, 9.3 mmol) was treated with 2-chloroacetonitrile (1.4 g, 18.6 mmol), triethylamine (10.4 mL, 74.3 mmol) and stirred at RT for 14 h. The crude reaction mixture was diluted with Et2O (25 mL) and washed with H2O (3×10 mL). The organic layer was dried over Na2SO4 and concentrated under reduced pressure to afford the title compound as a yellow oil (1.56 g, 100%), which was used without further purification.

reactant | 2-(Piperidin-4-yl)ethanol | 9.3 mmol, 1.2 g | N1CCC(CC1)CCO | C7H15NO
reactant | 2-chloroacetonitrile | 18.6 mmol, 1.4 g | ClCC#N | C2H2ClN
reactant | triethylamine | 74.3 mmol, 10.4 mL | C(C)N(CC)CC | C6H15N
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | 2-(4-(2-Hydroxyethyl)piperidin-1-yl)acetonitrile | 1.56 g, 100% | OCCC1CCN(CC1)CC#N | C9H16N2O
